US04419517
A. N-Methyl-4a-phenyl-1,3-diketo-8,8a-epoxydecahydroisoquinoline
A solution of 1.0 g (3.92 mmoles) of N-methyl-4a-phenyl-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline in 10 ml of chloroform was treated with a solution of 746 mg of 85% m-chloroperbenzoic acid in 12 ml of chloroform. The reaction mixture was refluxed for 36 hours, after which it was poured into 5 N sodium hydroxide. The aqueous phase was extracted twice with chloroform and the combined organic layers were washed well with water, then brine. Drying with sodium sulfate and evaporation of the solvent gave 0.7 g of white solid N-methyl-4a-phenyl-1,3-diketo-8,8a-epoxy-decahydroisoquinoline, mp 135°-140° C.

reactant | N-methyl-4a-phenyl-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 3.92 mmoles, 1.0 g | CN1C(C2=CCCCC2(CC1=O)C1=CC=CC=C1)=O | C16H17NO2
reactant | m-chloroperbenzoic acid | 746 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-4a-phenyl-1,3-diketo-8,8a-epoxydecahydroisoquinoline | 0.7 g | CN1C(C23C(CCCC2(CC1=O)C1=CC=CC=C1)O3)=O | C16H17NO3
